subckt inverter (in out vdd vss bp bn)
parameters PWinvp = 200n PWinvn = 100n

xM1 out in vdd bp mosp_h w=PWinvp l=PLmin
xM2 out in vss bn mosn_h w=PWinvn l=PLmin

ends inverter